US08859574B2
N-(4-bromo-5-methoxy-2-methylphenyl)acetamide was dissolved in methanol (15 mL) and concentrated HCl (30 mL). The mixture was refluxed at 95° C. overnight. After cooling to room temperature, the mixture was poured into ice water, and basified to pH=12 with conc. NaOH aqueous solution. The mixture was then extracted with ethyl acetate (3×50 mL). The combined organic layer was dried over Na2SO4 and concentrated. The crude product was purified by silica chromatography (15% ethyl acetate in hexanes) to give 4-bromo-5-methoxy-2-methylaniline as a beige solid; 1H NMR (400 mHz, CDCl3) 7.20 (s, 1H), 6.37 (s, 1H), 4.6 (br, 2H), 3.82 (s, 3H), 2.12 (s, 3H).

reactant | N-(4-bromo-5-methoxy-2-methylphenyl)acetamide | BrC1=CC(=C(C=C1OC)NC(C)=O)C | C10H12BrNO2
reactant | HCl | 30 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | 4-bromo-5-methoxy-2-methylaniline | BrC1=CC(=C(N)C=C1OC)C | C8H10BrNO
